US08877760B2
The mixture of 3-bromo-5-(pyrimidin-2-yl)aniline (140 mg, 0.56 mmol),), 2-tributylstannylpyrimidine (420 mg, 1.12 mmol), Pd(Ph3P)4 (65 mg, 0.056 mmol) in 20 mL toluene and 5 mL dioxane was degassed with argon stream and stirred at 110° C. in argon atmosphere for two days. It was cooled to RT, diluted with EtOAc, filtered through celite, concentrated in vacuo, and subjected to silica flash column to isolate 3,5-di(pyrimidin-2-yl)aniline.

reactant | 3-bromo-5-(pyrimidin-2-yl)aniline | 0.56 mmol, 140 mg | BrC=1C=C(N)C=C(C1)C1=NC=CC=N1 | C10H8BrN3
reactant | 2-tributylstannylpyrimidine | 1.12 mmol, 420 mg | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.056 mmol, 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,5-di(pyrimidin-2-yl)aniline | N1=C(N=CC=C1)C=1C=C(N)C=C(C1)C1=NC=CC=N1 | C14H11N5
